US08440595B2
Step 2: Preparation of 3-iodo-6-hydroxyquinoline
To a stirred mixture of 3-bromo-6-hydroxyquinoline (preparation described in Liebigs Ann Chem 1966, 98-106), (3.0 g), sodium iodide (4.0 g) and copper iodide (0.25 g) in dioxane (19.5 ml) is added N,N′-tetramethyl-ethane-1,2-diamine (0.24 g) in a sealed tube under argon. The mixture is stirred at 120° C. for 14 h and upon cooling is treated with aqueous ammonia followed by aqueous hydrochloric acid to reach pH 5. Extraction with ethyl acetate, drying of the organic phase over magnesium sulphate, filtration and evaporation under reduced pressure gives the required product ((M+1)+272) as a light brown coloured powder that is used as such in the next step.

reactant | 3-bromo-6-hydroxyquinoline | 3.0 g | BrC=1C=NC2=CC=C(C=C2C1)O | C9H6BrNO
reactant | sodium iodide | 4.0 g | [I-].[Na+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 19.5 ml | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 0.25 g | [Cu](I)I
product | 3-iodo-6-hydroxyquinoline | IC=1C=NC2=CC=C(C=C2C1)O | C9H6INO
